US04536578
1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-phenylpiperazine oxalate
To 35 ml of dry dimethylformamide was added 1.6 g of 4-phenylpiperazine, 2.1 g of 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole, 8.0 g of sodium bicarbonate, and a few crystals of potassium iodide. The mixture was heated at 100° C. for three hrs, with stirring. The mixture was filtered and the filtrate was evaporated to an oil. The oil was stirred with 100 ml of water for five mins and then extracted with ether. The ether extract was washed with water (2×), saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. After filtering, the solution was converted to 4.0 g (70%) of product, by treatment with ethereal oxalic acid. Recrystallization twice from ethyl acetate/methanol/ether yielded the analytical sample mp 188°-190°]C. (dec).

reactant | 4-phenylpiperazine | 1.6 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 2.1 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | sodium bicarbonate | 8.0 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | [I-].[K+]
reactant | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-phenylpiperazine oxalate | C(C(=O)O)(=O)O.FC1=CC2=C(C(=NO2)CCCN2CCN(CC2)C2=CC=CC=C2)C=C1 | InChI=1S/C20H22FN3O.C2H2O4/c21-16-8-9-18-19(22-25-20(18)15-16)7-4-10-23-11-13-24(14-12-23)17-5-2-1-3-6-17;3-1(4)2(5)6/h1-3,5-6,8-9,15H,4,7,10-14H2;(H,3,4)(H,5,6)
